US04518597
6-[4-(4-Chloro-phenylsulfinyl)-butoxy]-7-chloro-4,4-dimethyl-4H-3,1-benzoxazin-2-one
Prepared analogously to Example 2 from 7-chloro-6-[4-(4-chloro-phenylmercapto)-butoxy]-4,4-dimethyl-4H-3,1-benzoxazin-2-one and hydrogen peroxide.

reactant | 7-chloro-6-[4-(4-chloro-phenylmercapto)-butoxy]-4,4-dimethyl-4H-3,1-benzoxazin-2-one | ClC1=CC2=C(C(OC(N2)=O)(C)C)C=C1OCCCCSC1=CC=C(C=C1)Cl | C20H21Cl2NO3S
reactant | hydrogen peroxide | OO | H2O2
product | 6-[4-(4-Chloro-phenylsulfinyl)-butoxy]-7-chloro-4,4-dimethyl-4H-3,1-benzoxazin-2-one | ClC1=CC=C(C=C1)S(=O)CCCCOC=1C(=CC2=C(C(OC(N2)=O)(C)C)C1)Cl | C20H21Cl2NO4S
